US08039460B2
2-Hydroxy-4-methoxy-4-oxobutan-1-aminium chloride
Anhydrous hydrochloric acid gas was bubbled into a suspension of 4-amino-3-hydroxybutanoic acid (0.91 g, 7.61 mmol) in methanol (150 mL) until the solution was saturated and stirred at ambient temperature. After 18 h, the solution was concentrated to give the title compound (1.32 g). MS 134 (M+1).

reactant | hydrochloric acid | Cl | ClH
reactant | 4-amino-3-hydroxybutanoic acid | 7.61 mmol, 0.91 g | NCC(CC(=O)O)O | C4H9NO3
reactant | methanol | 150 mL | CO | CH4O
product | 2-Hydroxy-4-methoxy-4-oxobutan-1-aminium chloride | 1.32 g | [Cl-].OC(C[NH3+])CC(=O)OC | InChI=1S/C5H11NO3.ClH/c1-9-5(8)2-4(7)3-6;/h4,7H,2-3,6H2,1H3;1H
